US07902252B2
6.17. Synthesis of 3-bromo-4-phenethyl-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid (147)
The title compound was synthesized from methyl 3-bromo-4-phenethyl-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate (68 mg, 0.20 mmol) and lithium hydroxide monohydrate (33 mg, 0.78 mmol in 3 mL water), according to General Procedure 7. A 1:1 mixture of methanol (MeOH) and THF (6 mL) was used. The resulting product was purified by flash chromatography (Isco CombiFlash) eluting with a gradient of 0-80% EtOAc/Heptane to the title compound. 37 mg. 1H NMR (400 MHz, METHANOL-d4) δ ppm 1.68-1.80 (m, 1H), 2.08-2.22 (m, 2H), 2.55-2.71 (m, 4H), 2.71-2.83 (m, 1H), 3.00-3.08 (m, 1H), 7.10-7.16 (m, 1H), 7.17-7.28 (m, 4H); LCMS-MS (ESI+) 356.0 (M+Na); HPLC (UV=93.2%), (ELSD=100%).

reactant | methyl 3-bromo-4-phenethyl-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | 0.20 mmol, 68 mg | BrC=1C2=C(NC1C(=O)OC)CCC2CCC2=CC=CC=C2 | C17H18BrNO2
reactant | lithium hydroxide monohydrate | 0.78 mmol, 3 mL, 33 mg | O.[OH-].[Li+]
reactant | methanol | CO | CH4O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | 3-bromo-4-phenethyl-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid | BrC=1C2=C(NC1C(=O)O)CCC2CCC2=CC=CC=C2 | C16H16BrNO2
